US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(4-(2-(4-methylpiperazin-1-yl)ethoxy)phenyl)pyrimidin-2-yl)morpholine (Chemical Formula 15)
(S)-4-(5-bromopyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine 15 mg (0.03 mmol) was dissolved in dioxane 1 ml, and 1-methyl-4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)phenoxy)ethyl)piperazine 17 mg (0.05 mmol), 1M Na2CO3 98 μl (0.09 mmol), and Pd(pph3)4 2 mg (0.001 mmol) were added and then charged with nitrogen, followed by stirring at 105° C. for 18 hours. After the reaction, the reaction mixture was extracted with EA and brine, and the organic layer was dried over MgSO4. Column chromatography (methylene chloride methanol=20:1) gave a product 0.7 mg (4%).

reactant | (S)-4-(5-bromopyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine | 0.03 mmol, 15 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C17H17BrN10O
reactant | 1-methyl-4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)phenoxy)ethyl)piperazine | 0.05 mmol, 17 mg | CN1CCN(CC1)CCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H31BN2O3
reactant | Na2CO3 | 0.09 mmol, 1M, 98 μl | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(pph3)4 | 0.001 mmol, 2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(4-(2-(4-methylpiperazin-1-yl)ethoxy)phenyl)pyrimidin-2-yl)morpholine | 0.7 mg, 4% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCN2CCN(CC2)C | C30H36N12O2
